US04452799
1-[4-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]butyl]-4,4-diethyl-2,6-piperidinedione
Title product hydrochloride hydrate--Reaction of N-(4-bromobutyl-3,3-diethylglutarimide and 3-(1-piperazinyl)-1,2-benzisothiazole and conversion of the free base to the hydrochloride salt in isopropanol according to the procedure of Example 3 affords 1-[4-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]butyl]-4,4-diethyl-2,6-piperidinedione hydrochloride hydrate, m.p. 179°-183° C., from acetonitrile.

reactant | hydrochloride hydrate | O.Cl
reactant | 4-bromobutyl-3,3-diethylglutarimide | BrCCCCC1C(=O)NC(CC1(CC)CC)=O | C13H22BrNO2
reactant | 3-(1-piperazinyl)-1,2-benzisothiazole | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-[4-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]butyl]-4,4-diethyl-2,6-piperidinedione | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN2C(CC(CC2=O)(CC)CC)=O | C24H34N4O2S
